US07585885B2
(S)-2-sec-Butylamino-6-(cyclopropanesulfonyl-methylamino)-isonicotinic acid
Dissolve (S)-2-sec-butylamino-6-(cyclopropanesulfonyl-methylamino)-isonicotinic acid methyl ester (600 mg, 1.97 mmol) in methanol (18 mL). Slowly add 2 N NaOH (3 mL) and stir overnight at room temperature. Acidify the mixture to about pH=6 with 5 N HCl and concentrate. Dilute with ethyl acetate (30 mL) and wash the organic layer with saturated aqueous sodium chloride solution, dry (magnesium sulfate) and concentrate to give the title compound.

reactant | (S)-2-sec-butylamino-6-(cyclopropanesulfonyl-methylamino)-isonicotinic acid methyl ester | 1.97 mmol, 600 mg | COC(C1=CC(=NC(=C1)N(C)S(=O)(=O)C1CC1)N[C@@H](C)CC)=O | C15H23N3O4S
reactant | NaOH | 2 N, 3 mL | [OH-].[Na+]
reactant | HCl | 5 N | Cl | ClH
solvent | methanol | 18 mL | CO | CH4O
product | (S)-2-sec-Butylamino-6-(cyclopropanesulfonyl-methylamino)-isonicotinic acid | [C@H](C)(CC)NC=1C=C(C(=O)O)C=C(N1)N(C)S(=O)(=O)C1CC1 | C14H21N3O4S
